US05308519
Tungsten hexa(diamyldithiocarbamate) Empirical formula: C66H132N6S12W Molecular weight: 1578.379
0.576 kg of granulated caustic soda is added to 8 liters of anhydrous methanol and the mixture is stirred until all solid material has dissolved. 2.26 kg of diamylamine are added to the solution and 0.88 liter of carbon disulfide is introduced over a period of 2 hours. The mixture is stirred for a further 3 hours at 25° C. and a solution of 0.952 kg of tungsten hexachloride in 2.4 liters of anhydrous methanol is then added over a period of one hour and the mixture is stirred for an additional 3 hours.

reactant | caustic soda | 0.576 kg | [OH-].[Na+]
reactant | diamylamine | 2.26 kg | C(CCCC)NCCCCC | C10H23N
reactant | carbon disulfide | 0.88 liter | C(=S)=S | CS2
reactant | tungsten hexachloride | 0.952 kg | [W](Cl)(Cl)(Cl)(Cl)(Cl)Cl
solvent | methanol | 2.4 liters | CO | CH4O
solvent | methanol | 8 liters | CO | CH4O
product | Tungsten hexa(diamyldithiocarbamate) | C(CCCC)N(C([S-])=S)CCCCC.C(CCCC)N(C([S-])=S)CCCCC.C(CCCC)N(C([S-])=S)CCCCC.C(CCCC)N(C([S-])=S)CCCCC.C(CCCC)N(C([S-])=S)CCCCC.C(CCCC)N(C([S-])=S)CCCCC.[W+6] | InChI=1S/6C11H23NS2.W/c6*1-3-5-7-9-12(11(13)14)10-8-6-4-2;/h6*3-10H2,1-2H3,(H,13,14);/q;;;;;;+6/p-6
